US03989450
100 g of 1,6-dinitro-anthraquinone and 84 g of p-anisidine are stirred in 300 ml of nitrobenzene at 150° C until no further starting material is detectable in a sample. The mixture is now distilled to dryness in a Venuleth apparatus under a vacuum of 5 mm and the finely ground residue is thoroughly stirred with dilute sulphuric acid, filtered off, washed until neutral and dried. 125 g of 1-p-anisidino-6-nitro-anthraquinone are obtained.

reactant | 1,6-dinitro-anthraquinone | 100 g | [N+](=O)([O-])C1=CC=CC=2C(C3=CC(=CC=C3C(C12)=O)[N+](=O)[O-])=O | C14H6N2O6
reactant | p-anisidine | 84 g | COC1=CC=C(C=C1)N | C7H9NO
solvent | nitrobenzene | 300 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 1-p-anisidino-6-nitro-anthraquinone | 125 g | COC1=CC=C(C=C1)NC1=CC=CC=2C(C3=CC(=CC=C3C(C12)=O)[N+](=O)[O-])=O | C21H14N2O5
